US08686005B2
2-Methoxy-nicotinonitrile was prepared according to the literature by reaction of the 2-chloro-nicotinonitrile with MeONa in MeOH according to Dunn, A. D.; Norrie, R.; Heterocycl. Chem.; EN; 24; 1987; 85-89.

reactant | 2-chloro-nicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | MeONa | CO[Na]
solvent | MeOH | CO | CH4O
product | 2-Methoxy-nicotinonitrile | COC1=C(C#N)C=CC=N1 | C7H6N2O
